US06166006
In ethanol (100 ml) was dissolved 1-(3-nitrobenzyl)-piperidine (32.2 g), and to the mixture was added dried 10% palladium on carbon (1.61 g). Under hydrogen atmosphere, the mixture was stirred at room temperature under atmospheric pressure for 24 hours. The palladium was filtered off, and the filtrate was concentrated. The residue was recrystallized from diisopropylether-hexane to give 1-(3-aminobenzyl)piperidine (15.8 g) as colorless crystals.

reactant | 1-(3-nitrobenzyl)-piperidine | 32.2 g | [N+](=O)([O-])C=1C=C(CN2CCCCC2)C=CC1 | C12H16N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(3-aminobenzyl)piperidine | 15.8 g | NC=1C=C(CN2CCCCC2)C=CC1 | C12H18N2
